US08802864B2
c) 5-{[(3S)-1-acetyl-3-pyrrolidinyl]methyl}-4-[4-(7-quinolinyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
A solution of 5-{[(3S)-1-acetyl-3-pyrrolidinyl]methyl}-4-(4-bromophenyl)-2,4-dihydro-3H-1,2,4-triazol-3-one (0.211 mmol) in dioxane (2 mL) was treated with 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (0.216 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (20 mg), and 2M aq potassium carbonate (1 mL). The reaction mixture was purged with nitrogen, sealed, and stirred at 110° C. for 1 h. The reaction mixture was cooled to room temperature, diluted with water, neutralized with the dropwise addition of 6N aq HCl, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Reverse phase HPLC (10-70% acetonitrile/water+0.1% NH4OH) was utilized to purify the title compound (29 mg, 33%). MS(ES)+ m/e 413.8 [M+H]+.

reactant | 5-{[(3S)-1-acetyl-3-pyrrolidinyl]methyl}-4-(4-bromophenyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.211 mmol | C(C)(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)Br | C15H17BrN4O2
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.216 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | potassium carbonate | 2M, 1 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 5-{[(3S)-1-acetyl-3-pyrrolidinyl]methyl}-4-[4-(7-quinolinyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | C(C)(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)C1=CC=C2C=CC=NC2=C1 | C24H23N5O2
